US04371644
bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]1,2-cyclohexanedicarboxylate (Compound No. 90)
A mixture of 11.0 g of 4-hydroxy-2,2,6,6-tetramethylpiperidine and 7.0 g of bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate was heated, with stirring, at 170°-180° C. for 5 hours. After completion of the reaction, benzene was added to the reaction mixture and then the benzene solution was washed with water and dried over anhydrous potassium carbonate. The solvent was evaporated under reduced pressure from the benzene solution, leaving a residue, which was then purified by column chromatography through silica gel eluted with a 16:2:1:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine, giving the desired Compound No. 90 as a vitreous solid. The Compound had an Rf value of 0.32 on thin-layer chromatography on silica gel developed with a 16:2:3:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 11.0 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | bis(2,3-epoxypropyl)1,2-cyclohexanedicarboxylate | 7.0 g | O1C(COC(=O)C2C(CCCC2)C(=O)OCC2CO2)C1 | C14H20O6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]1,2-cyclohexanedicarboxylate | OC(COC(=O)C1C(CCCC1)C(=O)OCC(CN1C(CC(CC1(C)C)O)(C)C)O)CN1C(CC(CC1(C)C)O)(C)C | C32H58N2O8
